US06605600B1
8-(2-Oxo-3-aza-bicyclo[3.2.1]oct-8-yl)-1,3-dipropyl-3,9-dihydro-purine-2,6-dione
Into a solution of NaN3 (65 mg) in CHCl3 (2 ml) was added H2SO4 (0.5 ml). The resulting solution was cooled to 0° C. 8-(2-Oxo-bicyclo[2.2.1]hept-7-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione (173 mg) in CHCl3 (3 ml) was added. The resulting solution was stirred at room temperature for 3 hrs. The reaction mixture was poured over ice and neutralized with NaHCO3, extracted with ethyl acetate (3×25 ml). The combined extract was dried over MgSO4, filtered, and concentrated. The crude product was purified by recrystallization from MeOH. Yield 155 mg. Mass (ES+ 360).

reactant | NaN3 | 65 mg | [N-]=[N+]=[N-].[Na+]
reactant | H2SO4 | 0.5 ml | OS(=O)(=O)O | H2O4S
reactant | 8-(2-Oxo-bicyclo[2.2.1]hept-7-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 173 mg | O=C1C2CCC(C1)C2C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C18H24N4O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-(2-Oxo-3-aza-bicyclo[3.2.1]oct-8-yl)-1,3-dipropyl-3,9-dihydro-purine-2,6-dione | O=C1C2CCC(CN1)C2C=2NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C18H25N5O3
